US04478833
8-(4-Ethoxy-anilino)-2-(2-hydroxyethyl-amino)-4-(1-oxidothiomorpholino)-pyrimido[5,4-d]pyrimidine
This compound was prepared analogous to Example 3 from 8-(4-ethoxy-anilino)-2-chloro-4-(1-oxido-thiomorpholino) pyrimido[5,4-d]pyrimidine (melting point: 237°-240° C.) and 2-hydroxyethyl-amine.

reactant | 8-(4-ethoxy-anilino)-2-chloro-4-(1-oxido-thiomorpholino) pyrimido[5,4-d]pyrimidine | C(C)OC1=CC=C(NC2=NC=NC3=C2N=C(N=C3N3CCS(CC3)=O)Cl)C=C1 | C18H19ClN6O2S
reactant | 2-hydroxyethyl-amine | OCCN | C2H7NO
product | 8-(4-Ethoxy-anilino)-2-(2-hydroxyethyl-amino)-4-(1-oxidothiomorpholino)-pyrimido[5,4-d]pyrimidine | C(C)OC1=CC=C(NC2=NC=NC3=C2N=C(N=C3N3CCS(CC3)=O)NCCO)C=C1 | C20H25N7O3S
